US08580147B2
Well-dried (2,3-difluoro-4-hexyloxybenzyl)triphenylphosphonium chloride (s-16) (7.5 g) and THF (100 ml) were mixed under an atmosphere of nitrogen, which was cooled to −10° C. Potassium t-butoxide (t-BuOK; 1.6 g) was added in the temperature range of −10° C. to −5° C. After 60 minutes of stirring at −10° C., 2,3-difluorobenzaldehyde (s-23) (1.9 g) dissolved in THF (30 ml) was added dropwise in the temperature range of −10 to −5° C. After 30 minutes of stirring at 0° C., the reaction mixture was poured into a mixture of water (100 ml) and toluene (100 ml) and mixed with them. The mixture was then allowed to stand until it had separated into two layers of organic and aqueous layers, and the extraction into an organic layer was carried out. The resulting organic layers were separated, and washed with water, and then dried over anhydrous magnesium sulfate. The resulting solution was concentrated under reduced pressure. The resulting residue was purified by column chromatography using silica gel as a stationary phase powder and toluene as an eluent, and the eluent was concentrated under reduced pressure. The residue was dissolved in a mixed solvent of toluene (100 ml) and Solmix A-11 (100 ml), and Pd/C (0.1 g) was added. The mixture was stirred at room temperature under a hydrogen atmosphere until hydrogen absorption had ceased. After the completion of the reaction, Pd/C was removed, and the solvent was distilled off. The resulting residue was purified by recrystallization from a mixed solvent of ethyl acetate and Solmix A-11 (ethyl acetate:Solmix=1:4 by volume) to give 1-(2,3-difluorophenethyl)-2,3-difluoro-4-(hexyloxy)benzene (s-24) (3.6 g). The yield based on the compound (s-23) was 76.0%.

reactant | (2,3-difluoro-4-hexyloxybenzyl)triphenylphosphonium chloride | 7.5 g | [Cl-].FC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1F)OCCCCCC
reactant | Potassium t-butoxide | 1.6 g | CC(C)([O-])C.[K+]
reactant | 2,3-difluorobenzaldehyde | 1.9 g | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,3-difluorophenethyl)-2,3-difluoro-4-(hexyloxy)benzene | 3.6 g | FC1=C(CCC2=C(C(=C(C=C2)OCCCCCC)F)F)C=CC=C1F | C20H22F4O
